US04179579
A solution of 500 g of 4-isopropenyl-3,7-dimethyl-6-octen-1-yn-3-ol in 1.5 liters of n-hexane was hydrogenated at ambient temperature and atmospheric pressure using 25 g of 0.25% Lindlar catalyst. The reaction was sequentially monitored by gas chromatography (PEG20M, 150° C.) and the reaction was terminated when no starting material remained. The catalyst was filtered off and the solvent was removed from the filtrate by distillation under reduced pressure. The residue was distilled in vacuo to obtain 482 g of 4-isopropenyl-3,7-dimethyl-1,6-octadien-3-ol as a fore-running distillate at bp. 55°-59° C./0.4 mm Hg.

reactant | 4-isopropenyl-3,7-dimethyl-6-octen-1-yn-3-ol | 500 g | C(=C)(C)C(C(C#C)(O)C)CC=C(C)C | C13H20O
solvent | n-hexane | 1.5 liters | CCCCCC | C6H14
catalyst | Lindlar catalyst | 25 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 4-isopropenyl-3,7-dimethyl-1,6-octadien-3-ol | 482 g | C(=C)(C)C(C(C=C)(O)C)CC=C(C)C | C13H22O
